US08008307B2
Step b: N-(4,6-dichloropyrimidin-5-yl)-N-methylbenzamide
To a solution of N-(4,6-dichloropyrimidin-5-yl)benzamide (3.0 g, 0.011 mol) in tetrahydrofuran (70 mL, 0.9 mol) was added cesium carbonate (9.8 g, 0.030 mol). The suspension was stirred for 5 minutes and to this was added methyl iodide (1.4 mL, 0.022 mol) (purified on aluminum oxide). After stirring for 1 hour, cesium carbonate (5.0 g, 0.015 mol) and methyl iodide (0.70 mL, 0.011 mol) (purified on alumina) were added. The reaction was stirred for 2 hours, quenched by addition of saturated aqueous NH4Cl, and the mixture was extracted with ethyl acetate, washed with water, brine, dried (Na2SO4), filtered, concentrated and trituration in diethyl ether to obtain 2.54 g (80%).

reactant | N-(4,6-dichloropyrimidin-5-yl)benzamide | 0.011 mol, 3.0 g | ClC1=NC=NC(=C1NC(C1=CC=CC=C1)=O)Cl | C11H7Cl2N3O
reactant | tetrahydrofuran | 0.9 mol, 70 mL | O1CCCC1 | C4H8O
reactant | cesium carbonate | 0.030 mol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.022 mol, 1.4 mL | CI | CH3I
reactant | cesium carbonate | 0.015 mol, 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.011 mol, 0.70 mL | CI | CH3I
product | N-(4,6-dichloropyrimidin-5-yl)-N-methylbenzamide | ClC1=NC=NC(=C1N(C(C1=CC=CC=C1)=O)C)Cl | C12H9Cl2N3O
